US04559177
To a solution of 6-(20-hydroxyeicosyl)-2,3-dimethoxy-5-methylphenol (2.3 g) in dimethylformamide (1.5 l) are added potassium nitrosodisulfonate (30 g), water (1.5 l), methanol (300 ml) and monopotassium phosphate (1.3 g) and the mixture is stirred at room temperature for 45 days. The reaction mixture is extracted with dichloromethane and recrystallized from ether. The above procedure gives 6-(20-hydroxyeicosyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone (1.3 g) as yellow needles. Melting point: 85° C.

reactant | 6-(20-hydroxyeicosyl)-2,3-dimethoxy-5-methylphenol | 2.3 g | OCCCCCCCCCCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C29H52O4
reactant | potassium nitrosodisulfonate | 30 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | water | 1.5 l | O | H2O
reactant | monopotassium phosphate | 1.3 g | P(=O)([O-])(O)O.[K+]
solvent | dimethylformamide | 1.5 l | CN(C=O)C | C3H7NO
solvent | methanol | 300 ml | CO | CH4O
product | 6-(20-hydroxyeicosyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 1.3 g | OCCCCCCCCCCCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C29H50O5
